US08530473B2
A solution of 34 ml of dichloromethane containing 0.9 g of tert-butyl ester of 4-tert-butoxyimino-piperidine-1-carboxylic acid is cooled to 0° C. 25 ml of a 4M solution of hydrochloric acid in dioxane (30 eq) is added. The reaction mixture is stirred at room temperature for 3 hours and then diluted by adding dichloromethane. A saturated solution of sodium hydrogen carbonate is then added until pH=8 is obtained. The aqueous phase is extracted three times with dichloromethane. The organic phases are then combined, dried over sodium sulfate, filtered and concentrated to dryness under reduced pressure. 0.49 g of piperidin-4-one O-tert-butyl-oxime is obtained.

reactant | 4-tert-butoxyimino-piperidine-1-carboxylic acid | C(C)(C)(C)ON=C1CCN(CC1)C(=O)O | C10H18N2O3
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 30 eq | O1CCOCC1 | C4H8O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 34 ml, 0.9 g | ClCCl | CH2Cl2
product | piperidin-4-one O-tert-butyl-oxime | 0.49 g | C(C)(C)(C)ON=C1CCNCC1 | C9H18N2O
